US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (100.0 mg, 0.23 mmol), 4-chlorocarbonyl-benzoic acid methyl ester (60.0 mg, 0.30 mmol), iPr2NEt (0.12 mL, 0.69 mmol) in CH2Cl2 (5 mL) was stirred at rt overnight. The mixture was then diluted with CH2Cl2 and washed with water, brine. The organic phase was separated, filtered and dried over Na2SO4. The mixture was then concentrated and the residue was purified by flash column (1%-15% AcOEt in Hex) to give rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid methyl ester (132.0 mg, 98.0%).

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.23 mmol, 100.0 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-chlorocarbonyl-benzoic acid methyl ester | 0.30 mmol, 60.0 mg | COC(C1=CC=C(C=C1)C(=O)Cl)=O | C9H7ClO3
reactant | iPr2NEt | 0.69 mmol, 0.12 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid methyl ester | 132.0 mg, 98.0% | COC(C1=CC=C(C=C1)C(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C31H28Cl2F2N2O3
